US07595324B2
7-Methylthieno[3,2-d]pyrimidine-2,4(1H,3H)-dione
To a stirred solution of methyl-3-amino-4-methylthiophene-2-carboxylate (530 mg, 3.1 mmol) in acetic acid (15.5 mL) and water (1.6 mL) was added a solution of potassium cyanate (754 mg, 9.3 mmol) dissolved in water (2.5 mL) dropwise via syringe. The reaction was stirred at room temperature for 15 h, upon completion of the reaction; the reaction mixture was concentrated to 75% and filtered off white solid. To the solid was added 6% aqueous sodium hydroxide (16 mL) and refluxed for 2 h. After cooling to room temperature, the solution was acidified using 12N HCl to pH=6. The resultant precipitate was filtered, washed with water and dried in vacuum oven overnight to give 403 mg (71%) of the title compound as a white solid which was used without any further purification:

reactant | methyl-3-amino-4-methylthiophene-2-carboxylate | 3.1 mmol, 530 mg | COC(=O)C=1SC=C(C1N)C | C7H9NO2S
reactant | potassium cyanate | 9.3 mmol, 754 mg | [O-]C#N.[K+]
solvent | acetic acid | 15.5 mL | C(C)(=O)O | C2H4O2
solvent | water | 1.6 mL | O | H2O
solvent | water | 2.5 mL | O | H2O
product | 7-Methylthieno[3,2-d]pyrimidine-2,4(1H,3H)-dione | 403 mg, 71% | CC1=CSC2=C1NC(NC2=O)=O | C7H6N2O2S
